US09193935B2
2.6: 1-Isopropyl-3-(6-phenylhex-4-en-2-yl)benzene
Starting from phenethyltriphenylphosphonium bromide (5.00 g, 11.2 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 7.0 mL, 11.2 mmol, 1.0 equiv.) and 3-(3-isopropylphenyl)butanal (3.20 g, 16.8 mmol, 1.5 equiv.), 2.54 g (82%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 11.2 mmol, 5.00 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 11.2 mmol, 1.6 M, 7.0 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(3-isopropylphenyl)butanal | 16.8 mmol, 3.20 g, 1.5 equiv. | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
product | 1-Isopropyl-3-(6-phenylhex-4-en-2-yl)benzene | 2.54 g, 82% | C(C)(C)C1=CC(=CC=C1)C(C)CC=CCC1=CC=CC=C1 | C21H26
